US04155996
81 g of O-methyl 2-ethoxycarbonyl-thioacetate and then 38 g of acetonitrile were added to a solution of 27 g of sodium methylate in 250 ml of methanol and the mixture was refluxed for one hour. A solution of 27 g of sodium methylate in 100 ml of methanol were added to the reaction which was cooled to 20° C. and concentrated to dryness. The residue was dissolved in water and the solution was washed with ether, acidified with concentrated hydrochloric acid and was vacuum filtered. The recovered crystals were dried to obtain 42 g of 2-cyano-3-hydroxy-5-methoxy-thiophene with a melting point of 138°-140° C. A microanalytically pure sample obtained by crystallization from isopropyl ether melted at 140° C.

reactant | O-methyl 2-ethoxycarbonyl-thioacetate | 81 g | C(C)OC(=O)CC(=S)OC | C6H10O3S
reactant | acetonitrile | 38 g | C(C)#N | C2H3N
reactant | sodium methylate | 27 g | C[O-].[Na+]
reactant | sodium methylate | 27 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-cyano-3-hydroxy-5-methoxy-thiophene | 42 g | C(#N)C=1SC(=CC1O)OC | C6H5NO2S
